US08486952B2
A mixture of 2-(4-fluorophenyl)cyclopentanone (18.557 g, 104 mmol) and carbonisocyanatidic chloride (19.77 g, 187 mmol) was heated at 58° C. for 1 h and at 130° C. for 2 h. Upon cooling to room temperature, the tarrified reaction mixture was dissolved in ethyl acetate and washed with saturated aqueous solution of sodium bicarbonate. The organic layer was separated and the aqueous layer was extracted with ethyl acetate. The combined organic extracts were dried over anhydrous magnesium sulfate and filtered. The solvent was removed in vacuum and the residue was purified by column chromatography on silica gel to give 7-(4-fluorophenyl)-6,7-dihydrocyclopenta[e][1,3]oxazine-2,4(3H,5H)-dione (13.527 g, 54.7 mmol, 52.5% yield) as brown solid. LC-MS (M+H)+=248.1. 1H NMR (500 MHz, CDCl3) δ ppm 11.80 (1H, br s), 7.31-7.39 (2H, m), 7.16-7.22 (2H, m), 4.30-4.38 (1H, m), 2.63-2.73 (1H, m), 2.53-2.63 (2H, m), 1.84-1.95 (1H, m).

reactant | 2-(4-fluorophenyl)cyclopentanone | 104 mmol, 18.557 g | FC1=CC=C(C=C1)C1C(CCC1)=O | C11H11FO
reactant | carbonisocyanatidic chloride | 187 mmol, 19.77 g | C(=O)(N=C=O)Cl | C2ClNO2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-(4-fluorophenyl)-6,7-dihydrocyclopenta[e][1,3]oxazine-2,4(3H,5H)-dione | 54.7 mmol, 13.527 g, 52.5% yield | FC1=CC=C(C=C1)C1CCC=2C(NC(OC21)=O)=O | C13H10FNO3
